US07919506B2
2-(5-((2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)benzyl)amino)-2H-tetrazol-2-yl)ethanol
To a solution of N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine (42 mg, 0.056 mmol) in 2-methyltetrahydrofuran (1.5 mL) was added tetrabutylammonium fluoride (0.1 mL; 0.1 mmol; 1.0M in tetrahydrofuran). Reaction was stirred at room temperature for 1.5 hours. The reaction was concentrated in vacuo. The residue was purified by 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 10-40% ethyl acetate in heptane) to give 34 mg (95% yield) of a gum. MS (ES+): Calc: 639.5, Found: 640.5 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.78 (s, 1H), 7.74 (s, 2H), 7.45 (m, 3H), 5.10 (s, 2H), 4.81 (s, 2H), 4.61 (t, J=4.98 Hz, 2H), 4.11 (q, J=6.22, 5.8 Hz 1, 2H), 2.94 (s, 3H), 2.44 (t, J=6.64, 6.22 Hz, 1H), 2.11 (m, 2H), 2.19 (m, 2H), 1.82-1.45(m, 8H).

reactant | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-(2-(tert-butyldimethylsilyloxy)ethyl)-2H-tetrazol-5-amine | 0.056 mmol, 42 mg | COC1(CCCCCC1)C1=C(CN(C=2N=NN(N2)CCO[Si](C)(C)C(C)(C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C34H44F9N5O2Si
reactant | tetrabutylammonium fluoride | 0.1 mmol, 1.0M, 0.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 2-methyltetrahydrofuran | 1.5 mL | CC1OCCC1 | C5H10O
product | 2-(5-((2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)benzyl)amino)-2H-tetrazol-2-yl)ethanol | 34 mg, 95% yield | COC1(CCCCCC1)C1=C(CN(C=2N=NN(N2)CCO)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C28H30F9N5O2
